US05331099
A three-necked round-bottom flask equipped with a Dean-Strak trap and gas inlet line was charged with benzamide (0.2 mole), tetramethylammonium hydroxide dihydrate (0.2 mole) and nitrobenzene (100 mL). The reaction wasstirred for 8 hours at 65° C. with a continuous stream of air sweeping the surface of the reaction. Approximately 5 mL of water and 40 mL of nitrobenzene was collected in the Dean-Stark trap. Another 100 mL ofnitrobenzene was added and the reaction was allowed to stir overnight. A total of 70 mL of nitrobenzene was collected over this time period. The solution was cooled and water was added which caused the immediate precipitation of 4-nitrobenzanilide, i.e., N-(4-nitrophenyl)benzamide. Thesolution was filtered and a dark brown solid was obtained. The solid was washed with hot hexane and air dried to obtain 43.5 g of 4-nitrobenzanilide (90% yield).

reactant | benzamide | 0.2 mole | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | tetramethylammonium hydroxide dihydrate | 0.2 mole | O.O.[OH-].C[N+](C)(C)C
reactant | nitrobenzene | 100 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-nitrobenzanilide | 43.5 g, 90% yield | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C13H10N2O3
